Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/LURT (___) with CKD stage IV
of renal allograft, RAS s/p stenting, CAD s/p DES x4 ___, 
___
on aspirin/Plavix, HFpEF, atrial fibrillation s/p DVVC (___)
on Eliquis, HTN, HLD, T2DM, aorto-iliac occlusive disease,
bilateral carotid disease c/b recent CVA, OSA, and prostate
cancer, with recent hospitalization for HF exacerbation and
pericarditis, who presents with abdominal pain. 

He states that he has had poor appetite and epigastric pain 
since
discharge on ___. He feels progressively weaker as a result. 
The
epigastric pain does not radiate. He denies fevers, nausea,
vomiting, chest pain, diarrhea, difficulty breathing, hematuria,
dysuria, lower extremity edema, back pain. 

 
Past Medical History:
Past Medical History: 
Cardiovascular Issues:
1.  Coronary artery disease (s/p ___ 2 to proximal-LAD ___,
s/p ___ 2 to mid-LAD ___.
2.  Diastolic congestive heart failure.
3.  Hypertension.
4.  Dyslipidemia.
5.  Claudication/Aorto iliac occlusive disease (ABI 0.88/0.76).
6.  Morbid obesity.
7. diabetes
8 Obstructive sleep apnea
9. C diff enterocolitis
10 renal artery stenosis
11. s/p kidney transplant with CKD stage IV transplanted kidney
12. Klepbsiella UTI
13. Prostate cancer
14. Hyperparathyroidism
 
Social History:
___
Family History:
Father: ___, gout  
Mother: ___, ESRD on hemodialysis
Brothers: Lung cancer and CAD 
His father died at age ___ of dementia.  His mother died at age 
___
of heart failure.  She also had a history of stroke and
hypertension.  He has two brothers, two sisters, and no 
children.
One of his brothers had an MI in his late ___. There is no 
family
history notable for hyperlipidemia, diabetes,or sudden cardiac
death.
 
Physical Exam:
Admission Exam:
===============
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Soft, non distended, non-tender to deep palpation in 
all
four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3.

Discharge Exam:
GENERAL: NAD 
CARDIAC: Regular rhythm, normal rate. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing..
ABDOMEN: Soft, non distended, non-tender to deep palpation in 
all
four quadrants. 
EXTREMITIES: no edema bilateral lower extremity

 
Pertinent Results:
Labs:

___ 08:20PM BLOOD WBC-16.8* RBC-4.34* Hgb-12.3* Hct-37.8* 
MCV-87 MCH-28.3 MCHC-32.5 RDW-14.6 RDWSD-46.5* Plt ___
___ 08:20PM BLOOD ___ PTT-27.1 ___
___ 08:20PM BLOOD Glucose-167* UreaN-61* Creat-2.6* Na-138 
K-3.4* Cl-95* HCO3-24 AnGap-19*
___ 07:34AM BLOOD Glucose-147* UreaN-57* Creat-2.6* Na-144 
K-4.1 Cl-104 HCO3-23 AnGap-17
___ 02:58AM BLOOD CMV VL-NOT DETECT
___ 08:29PM BLOOD Lactate-1.1

Imaging:
CT Abdomen/Peliv
IMPRESSION: 
1. Focal wall thickening with pericolonic stranding at the 
hepatic flexure,  most consistent with focal 
colits(infectious/inflammatory/ischemic) versus  diverticulitis. 
 Recommend follow-up colonoscopy after acute symptoms subside. 
2. Sigmoid colon diverticulosis with equivocal haziness of the 
fat adjacent to  the proximal sigmoid colon could represent 
additional site of 
diverticulitis/focal colitis. 
3. Small to moderate right and small left bilateral pleural 
effusions with 
overlying atelectasis.  Small pericardial effusion again seen. 
4. Right lower quadrant transplant kidney with mild dilatation 
of the renal  pelvis, increased compared to the prior CT from ___. 

Renal Transplant US:
Interval increase in intrarenal arterial resistive indices now 
ranging from  0.89-1.0 with lack of diastolic flow seen in the 
mid and lower pole intrarenal  arteries as well as main renal 
artery. This is new compared to ___, however loss 
of diastolic flow was also seen on a prior renal ultrasound  
performed ___. 

 
Brief Hospital Course:
___ w/LURT (___) with CKD stage IV of renal allograft, RAS 
s/p stenting, CAD s/p DES x4 (___) on aspirin/Plavix, 
HFpEF, atrial fibrillation s/p DVVC (___) on Eliquis, HTN, 
HLD, T2DM, aorto-iliac occlusive disease, bilateral carotid 
disease c/b recent CVA, OSA, and prostate cancer, with recent
hospitalization for CHF exacerbation and pericarditis, who 
presents with abdominal pain with CT A/P concerning for 
diverticulitis. 

#Diverticulitis.
#Abdominal pain. 
Patient presented with new onset abdominal pain.  CT A/P 
obtained in ED consistent with diverticulitis. The patient was 
started on Unasyn while inpatient and had good response. He was 
able to tolerate PO and was having normal non bloody BM at the 
time of discharge. At time of discharge, abdominal pain had 
resolved.
He was discharged with Augmentin per renal dosing 500mg BID to 
compete a 10 day course (___) In addition, given his history 
of recurrent C diff, he was started on oral vancomycin for C 
diff prophylaxis. He will continue oral vancomycin for a total 
of 15 day course (___). The patient should have a colonoscopy 
to evaluate for bowel pathology in the setting of 
diverticulitis. 

CHRONIC AND STABLE ISSUES
=========================
#ESRD s/p renal transplant
#Immunosuppression. ESRD s/p living unrelated transplantation in
___ c/b transplant glomerulopathy (biopsy proven in ___, 
now
with CKD IV. Per Renal Transplant notes, he has a had a gradual
increase in SCr over the past year. Cr is currently at baseline
2.3-2.6.
- continue mycophenolate mofetil 250 mg PO BID
- continue tacrolimus 1.5 mg PO Q12H, goal ___

#Pericarditis
#Pericardial effusion. Etiology of the effusion was thought to 
be
viral pericarditis likely due to recent upper respiratory
infection given elevated CRP. A second TTE showed small to
moderate (small ammount apically and more moderate at base)
pericardial effusion with no overt evidence of tamponade. It was
felt that the effusion was predominantly posterior and unlikely
to be amenable to 
pericardiocentesis, which was deferred.
- continue ASA 325 TID (last ___ for 2 week course
- continue colchicine 3 months (last ___

#HFpEF, Stage C, NYHA class II. Recent hospitalization for HFpEF
exacerbation due to withholding diuretic and possible bacterial
pneumonia. Currently euvolemic on exam
- continue torsemide 
- continue coreg
- continue amlodipine, hydralazine 

#CAD
#Troponinemia
- continue high dose ASA as above, then will return to ASA 81 mg
on ___
- continue pravastatin 

#HTN
- continue hydralazine, amlodipine
- continue coreg

#Atrial Fibrillation: s/p DCCV
- continue home carvedilol 
- continue home apixaban 

#T2DM
- continue home glargine 24U QAM
- continue ISS

#Dyslipidemia
#Claudication/aortoiliac occlusive disease.
#Bilateral carotid artery disease (80-99% ___, 60-69% LICA)
#Multiple CVA/embolic strokes. Strokes attributed to
subtherapeutic 
INR, switched to NOAC during inpatient admission ___. 
- continue ASA, apixaban as above
- continue Pravastatin as above

#Gout
- continue allopurinol 

#BPH
- continue tamsulosin

#GERD
- continue pantoprazole especially as he is on high dose ASA

Transitional issues:

Transitional Issues:
====================
Recommend follow-up colonoscopy after acute symptoms subside.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral DAILY 
2. DICYCLOMine 10 mg PO DAILY:PRN abdominal pain 
3. melatonin 10 mg oral QHS 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
5. Allopurinol ___ mg PO DAILY 
6. amLODIPine 10 mg PO DAILY 
7. Apixaban 2.5 mg PO BID 
8. Aspirin 325 mg PO TID 
9. Calcitriol 0.25 mcg PO DAILY 
10. Carvedilol 25 mg PO BID 
11. Multivitamins 1 TAB PO DAILY 
12. Mycophenolate Mofetil 250 mg PO BID 
13. Pantoprazole 40 mg PO Q24H 
14. Pravastatin 40 mg PO QPM 
15. Tacrolimus 1.5 mg PO Q12H 
16. Torsemide 80 mg PO BID 
17. Tamsulosin 0.4 mg PO QHS 
18. Colchicine 0.3 mg PO DAILY Pericarditis  
19. HydrALAZINE 25 mg PO TID 
20. Calcium Carbonate 500 mg PO QID:PRN gas 
21. Glargine 24 Units Breakfast

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*16 Tablet Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO/NG BID 
RX *vancomycin [Firvanq] 25 mg/mL 5 ml by mouth twice a day Disp 
#*3900 Milliliter Milliliter Refills:*0 
3.  Glargine 24 Units Breakfast 
4.  Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral DAILY  
5.  Allopurinol ___ mg PO DAILY  
6.  amLODIPine 10 mg PO DAILY  
7.  Apixaban 2.5 mg PO BID  
8.  Aspirin 325 mg PO TID  
9.  Calcitriol 0.25 mcg PO DAILY  
10.  Calcium Carbonate 500 mg PO QID:PRN gas  
11.  Carvedilol 25 mg PO BID  
12.  Colchicine 0.3 mg PO DAILY Pericarditis   
13.  DICYCLOMine 10 mg PO DAILY:PRN abdominal pain  
14.  HydrALAZINE 25 mg PO TID  
15.  melatonin 10 mg oral QHS  
16.  Multivitamins 1 TAB PO DAILY  
17.  Mycophenolate Mofetil 250 mg PO BID  
18.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
19.  Pantoprazole 40 mg PO Q24H  
20.  Pravastatin 40 mg PO QPM  
21.  Tacrolimus 1.5 mg PO Q12H  
22.  Tamsulosin 0.4 mg PO QHS  
23.  Torsemide 80 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You had abdominal pain from diverticulitis 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We gave you antibiotics and you got better
- We transitioned you to oral antibiotics

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Please take all of the antibiotics as described below:
- Augmentin 500mg BID until (___)
- Vancomycin 125mg BID until (___)

We wish you the ___!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___